US07109354B2
4-Chloro-5-methyl-benzene-1,2-diamine (560 mg, 3.6 mmol, Maybridge Chemical Co. Ltd., Cornwall, UK) was dissolved in formic acid (10 mL) and the solution was refluxed at 100° C. for 18 hr. The reaction was allowed to cool and then evaporated to dryness in vacuo to give 5-chloro-6-methyl-1H-benzoimidazole as a tan solid (quantitative yield) that was used without further purification. The solid obtained above (410 mg, 2.4 mmol), di-tert-butyl dicarbonate (1.6 g, 7.4 mmol), and DMAP (29 mg, 0.24 mmol) were dissolved in CH3CN (20 mL). To the mixture, DIEA (1.3 mL, 7.4 mmol) was added and the reaction was stirred for 18 hr at rt. The solvents were evaporated in vacuo and the residue partitioned between EtOAc (100 mL) and saturated aqueous NaHCO3 (75 mL). The aqueous layer was separated and washed with EtOAc (100 mL). The combined organic layers were dried with MgSO4 and concentrated in vacuo. The crude residue was purified using flash SiO2 chromatography (20% EtOAc in hexanes) to give 620 mg (97%) of the title compound as a 1:1 mixture of regioisomers that were used without separation. 1H-NMR (CDCl3; 400 MHz, 1:1 mixture of isomers) δ 8.35 and 8.36 (s, 1H), 7.89 and 7.99 (s, 1H), 7.62 and 7.75 (s, 1H), 2.48 and 2.50 (s, 3H), 1.698 and 1.700 (s, 9H). ESI-MS (m/z): Calcd. for C13H15ClN2O2: 266.7; found: 266.9, 167.2 (M−Boc).

reactant | 4-Chloro-5-methyl-benzene-1,2-diamine | 3.6 mmol, 560 mg | ClC=1C=C(C(=CC1C)N)N | C7H9ClN2
reactant | formic acid | 10 mL | C(=O)O | CH2O2
product | 5-chloro-6-methyl-1H-benzoimidazole | quantitative yield | ClC1=CC2=C(NC=N2)C=C1C | C8H7ClN2
